US05182295
STEP A: 2-phenyl-7-benzofuranacetonitrile
11 g of potassium cyanide were added to 110 ml of methanol and then 23.5 g of 7-(bromomethyl)-2-phenyl benzofuran (Helvetica Chimica Acta, Vol. 57, 5, 1974, p. 1381) in 250 ml of methanol were added. The mixture was refluxed for 5 hours, then separated, filtered and concentrated. The crystals were crystallized from flugene-1,1,3 at reflux to obtain 5.78 g of the desired product melting at 65° C.

reactant | potassium cyanide | 11 g | [C-]#N.[K+]
reactant | 7-(bromomethyl)-2-phenyl benzofuran | 23.5 g | BrCC1=CC=CC=2C=C(OC21)C2=CC=CC=C2 | C15H11BrO
reactant | methanol | 250 ml | CO | CH4O
reactant | methanol | 110 ml | CO | CH4O
product | 2-phenyl-7-benzofuranacetonitrile | 5.78 g | C1(=CC=CC=C1)C1(OC=2C(C=CC2)=CC1)CC#N | C16H13NO
